US07977344B2
6-Amino-2-(butylamino)-9-[2-(tetrahydro-3-furanyl)ethyl]-7,9-dihydro-8H-Purin-8-one
A solution of N2-butyl-8-(methoxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-purine-2,6-diamine (181 mg) in methanol (1 mL) was treated with 4N HCl in 1,4-dioxane (0.5 mL) for 1.5 h. The reaction was evaporated and the residue treated with water then basified with saturated sodium bicarbonate solution. The resulting solid was filtered, washed with water and dried to give the title compound (111 mg).

reactant | N2-butyl-8-(methoxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-purine-2,6-diamine | 181 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1COCC1)OC)N | C16H26N6O2
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butylamino)-9-[2-(tetrahydro-3-furanyl)ethyl]-7,9-dihydro-8H-Purin-8-one | 111 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCC1COCC1)=O | C15H24N6O2
